US09145380B2
2-[1-(4-Chlorophenyl)propan-2-ylsulfonylamino]benzenesulfonamide
2-[[(E)-1-(4-Chlorophenyl)prop-1-en-2-yl]sulfonylamino]benzenesulfonamide (100 mg, 0.26 mmol) was dissolved in ethyl acetate (3 ml) and subjected to the H-cube (1 ml/min, full hydrogen. 10% Pd/C, 3 runs). The material obtained was purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (38 mg, 38%). The compound of Example 8 was also obtained.

reactant | 2-[[(E)-1-(4-Chlorophenyl)prop-1-en-2-yl]sulfonylamino]benzenesulfonamide | 0.26 mmol, 100 mg | ClC1=CC=C(C=C1)\C=C(/C)\S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C15H15ClN2O4S2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 2-[1-(4-Chlorophenyl)propan-2-ylsulfonylamino]benzenesulfonamide | 38 mg, 38% | ClC1=CC=C(C=C1)CC(C)S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C15H17ClN2O4S2
